US04215134
2,3-Dinitro-4-methylphenol (see H. E. Dadswell and J. Kenner, J. Chem. Soc., 1927, 583) is reacted with 3-chloro-1,2-epoxypropane and 25% aqueous sodium hydroxide solution. There is obtained, in 78% yield, 2,3-dinitro-1-(2,3-epoxypropoxy)-4-methylbenzene; m.p. 121°-123° C. This compound is reacted in boiling ethanol with tert.-butylamine to give 2,3-dinitro-1-(2-hydroxy-3-tert.-butylaminopropoxy)-4-methylbenzene; m.p. 104°-106° C. By catalytic hydrogenation over platinum dioxide, there is obtained therefrom amorphous 2,3-diamino-1-(2-hydroxy-3-tert.-butylaminopropoxy)-4-methylbenzene in the form of its trihydrochloride.

reactant | 2,3-Dinitro-4-methylphenol | [N+](=O)([O-])C1=C(C=CC(=C1[N+](=O)[O-])C)O | C7H6N2O5
reactant | 3-chloro-1,2-epoxypropane | ClCC1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,3-dinitro-1-(2,3-epoxypropoxy)-4-methylbenzene | 78% yield | [N+](=O)([O-])C1=C(C=CC(=C1[N+](=O)[O-])C)OCC1CO1 | C10H10N2O6
